US05529766
Methylene Bis(chloroacetate)
Chloroacetic anhydride (12.75 g, 75 mmol), paraformaldehyde (2.25 g, 75 mmol) and conc. sulfuric acid (15 drops) are added to methylene chloride (15 ml). The mixture is stirred for 24 hrs. at 50° C. under nitrogen, whereafter the reaction mixture is extracted with saturated aqueous potassium carbonate until carbon dioxide emission ends. The organic layer is dried (MgSO4), evaporated to dryness and the residue is distilled (80° C., 0.15 mmHg) to yield 10.2 g (57%) product. 1H NMR (200 MHz, CDCl3): δ 4.1 (2×CH2Cl,s), 5.9 (CH2,s). 13C NMR (200 MHz, CDCl3): δ 41.1 (CH2Cl), 81.4 (O--CH2 --O), 166.4 (CO).

reactant | Chloroacetic anhydride | 75 mmol, 12.75 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | paraformaldehyde | 75 mmol, 2.25 g | C=O | CH2O
reactant | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | sulfuric acid | 15 drops | S(O)(O)(=O)=O | H2O4S
product | Methylene Bis(chloroacetate) | 10.2 g, 57% | ClCC(=O)OCOC(CCl)=O | C5H6Cl2O4
